US06503949B1
1-Methylsulfonyl-2-trifluoromethoxybenzene (15.7 g, 65 mmol) was dissolved in concentrated sulfuric acid (27 mL) and the solution was heated to 40° C. Nitric acid (100%, 27 mL) was added dropwise over 45 minutes. The reaction mixture was allowed to stand overnight at 60° C., cooled, and then poured on crushed ice (300 mL). The precipitated product was isolated by filtration, washed with water (10×50 mL) and dried (MgSO4), affording 17.5 g of 3-methylsulfonyl-4-trifluoromethoxynitrobenzene.

reactant | 1-Methylsulfonyl-2-trifluoromethoxybenzene | 65 mmol, 15.7 g | CS(=O)(=O)C1=C(C=CC=C1)OC(F)(F)F | C8H7F3O3S
reactant | Nitric acid | 27 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 27 mL | S(O)(O)(=O)=O | H2O4S
product | 3-methylsulfonyl-4-trifluoromethoxynitrobenzene | 17.5 g | CS(=O)(=O)C=1C=C(C=CC1OC(F)(F)F)[N+](=O)[O-] | C8H6F3NO5S
